US08431607B2
(4S,5R)-3-(4-(4-chlorophenoxy)phenyl)-5-(methoxymethyl)-4-phenyloxazolidin-2-one
To (4S,5R)-3-(4-(4-chlorophenoxy)phenyl)-5-(hydroxymethyl)-4-phenyloxazolidin-2-one (14 mg, 0.035 mmol) in THF (1 mL) was added NaH (˜5 mg) and the reaction was stirred for 10 min. at room temperature. Iodomethane (˜0.01 mL) was added and the reaction was stirred for an additional 2 h. NaHCO3 aqueous solution was added to quench, followed by dilution with water and ethyl acetate. The organic phase was washed with brine, dried (MgSO4), and concentrated. Flash chromatography (0-30% ethyl acetate/hexanes) yielded 8 mg (57%) of the title compound as a colorless oil. 1H NMR (CDCl3) δ (ppm) 7.23-7.32 (m, 7H), 7.16-7.19 (m, 2H), 6.78-6.82 (m, 4H), 5.16 (d, 1H, J=5.7 Hz), 4.36 (dd, 1H, J=9.3, 3.9 Hz), 3.63 (ddd, 2H, J=18.4, 11.0, 4.1), 3.41 (s, 3H). HPLC-MS calculated C23H20ClNO4 (M+H+): 410.1, found: 410.1.

reactant | (4S,5R)-3-(4-(4-chlorophenoxy)phenyl)-5-(hydroxymethyl)-4-phenyloxazolidin-2-one | 0.035 mmol, 14 mg | ClC1=CC=C(OC2=CC=C(C=C2)N2C(O[C@H]([C@@H]2C2=CC=CC=C2)CO)=O)C=C1 | C22H18ClNO4
reactant | NaH | ˜5 mg | [H-].[Na+]
reactant | Iodomethane | ˜0.01 mL | IC | CH3I
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | (4S,5R)-3-(4-(4-chlorophenoxy)phenyl)-5-(methoxymethyl)-4-phenyloxazolidin-2-one | 8 mg, 57% | ClC1=CC=C(OC2=CC=C(C=C2)N2C(O[C@H]([C@@H]2C2=CC=CC=C2)COC)=O)C=C1 | C23H20ClNO4
